US05945380
2312 g (24.28 mol) of magnesium chloride are introduced with cooling into 18 l of acetonitrile. After the exothermic reaction has subsided, the solution is cooled to 0° C. and 3210 g (24.3 mol) of dimethyl malonate are added dropwise with stirring in the course of 45 minutes. After this, 4920 g (48.62 mol) of triethylamine are added dropwise at 0° C. with stirring in the course of 1.5 hours. After addition is complete, the mixture is stirred at 0° C. for a further 15 minutes. A solution of 4742 g (22.53 mol) of 2,6-dichloro-isonicotinyl chloride in 6670 ml of acetonitrile is then added dropwise at 0° C. with stirring in the course of 20 hours. The mixture is first stirred for 1 hour at 0° C. and then for 16 hours while slowly warming to room temperature. 15.9 l of concentrated hydrochloric acid are then added dropwise with stirring to the reaction mixture with cooling to 0 to 10° C. After this, 15.9 l of dichloromethane and 6.4 l of water are added with stirring and the organic phase is then separated off. The aqueous phase is extracted once more with 7.9 l of dichloromethane. The combined organic phases are washed twice with 4 l of water each time and then concentrated under reduced pressure. The residue which remains is stirred with 9.5 of water, then filtered off with suction and washed successively, first with 6.3 l of water and then twice with 7.9 l of petroleum ether each time. The product obtained is dried at 40° C. under reduced pressure. In this manner, 6.17 kg (89.2% of theory) of dimethyl 2,6-dichloro-isonicotinoyl-malonate are obtained.

reactant | magnesium chloride | 24.28 mol, 2312 g | [Cl-].[Mg+2].[Cl-]
reactant | dimethyl malonate | 24.3 mol, 3210 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | triethylamine | 48.62 mol, 4920 g | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichloro-isonicotinyl chloride | 22.53 mol, 4742 g | ClC=1C=C(CCl)C=C(N1)Cl | C6H4Cl3N
reactant | hydrochloric acid | 15.9 l | Cl | ClH
reactant | water | 6.4 l | O | H2O
solvent | acetonitrile | 6670 ml | C(C)#N | C2H3N
solvent | acetonitrile | 18 l | C(C)#N | C2H3N
solvent | dichloromethane | 15.9 l | ClCCl | CH2Cl2
product | dimethyl 2,6-dichloro-isonicotinoyl-malonate | 6.17 kg, 89.2% | ClC=1C=C(C(=O)C(C(=O)OC)C(=O)OC)C=C(N1)Cl | C11H9Cl2NO5
